US08895571B2
Step G: 6-[(1S)-2-amino-1-(3-fluorobenzyl)ethyl]-3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-5,6-dihydro-7H-pyrrolo[3,4-b]pyridin-7-one
2-[(2S)-2-[3-(4-Chloro-1-methyl-1H-pyrazol-5-yl)-7-oxo-5,7-dihydro-6H-pyrrolo [3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione (48 mg, 0.91) was dissolved in methanol (2 mL), tetrahydron furan (2 mL) and hydrazine (0.2 mL). The resulting reaction mixture was stirred at 50° C. for 2 h. Direct purification on prep.—HPLC (pH=10) afforded 12 mg (30.1% yield) of the desired intermediate as white solid. LC-MS found: 400.1 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm: 8.78 (d, J=1.8 Hz, 1H), 8.32 (d, J=1.8 Hz, 1H), 7.74 (s, 1H), 7.26 (ddd, J1=7.8 Hz, J2=6.3 Hz, J3=8.1 Hz, 1H), 7.06 (m, 2H), 6.96 (dd, J1=8.7 Hz, J2=8.4 Hz, 1H), 4.51 (s, 2H), 4.34 (m, 1H), 3.80 (s, 3H), 3.01 (m, 2H), 2.91 (m, 2H).

reactant | 2-[(2S)-2-[3-(4-Chloro-1-methyl-1H-pyrazol-5-yl)-7-oxo-5,7-dihydro-6H-pyrrolo [3,4-b]pyridin-6-yl]-3-(3-fluorophenyl)propyl]-1H-isoindole-1,3(2H)-dione | 48 mg | ClC=1C=NN(C1C=1C=C2C(=NC1)C(N(C2)[C@H](CN2C(C1=CC=CC=C1C2=O)=O)CC2=CC(=CC=C2)F)=O)C | C28H21ClFN5O3
reactant | furan | 2 mL | O1C=CC=C1 | C4H4O
reactant | hydrazine | 0.2 mL | NN | H4N2
solvent | methanol | 2 mL | CO | CH4O
product | 6-[(1S)-2-amino-1-(3-fluorobenzyl)ethyl]-3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-5,6-dihydro-7H-pyrrolo[3,4-b]pyridin-7-one | 12 mg, 30.1% yield | NC[C@H](CC1=CC(=CC=C1)F)N1C(C2=NC=C(C=C2C1)C1=C(C=NN1C)Cl)=O | C20H19ClFN5O
